US04224344
Methoxymethyl triphenyl phosphonium chloride (2 mmole) was treated with sodium hydride (2 mmole) in dimethylsulfoxide (6 ml), and 9-formyl-9,10-dihydro-9,10-methanoanthracene was added thereto at room temperature. The resulting mixture was stirred at room temperature for 1 hour and at 50° C. for 3 hours, diluted with water and extracted with benzene. The benzene extract was washed with water, dried over anhydrous sodium sulfate and evaporated to dryness to give an oily compound. The oil was treated with 2 N hydrochloric acid (5 ml) in dioxane (15 ml) at 50° C. for 2 hours. Usual work-up and purification over silica gel chromatography gave (9,10-dihydro-9,10-methano-9-anthryl)-acetaldehyde. I.R. spectra: 2740, 1715, 1440, 1375, 1165, 1135, 1065, 935, 760, 715, 660 cm-1.

reactant | Methoxymethyl triphenyl phosphonium chloride | 2 mmole | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 2 mmole | [H-].[Na+]
reactant | 9-formyl-9,10-dihydro-9,10-methanoanthracene | C(=O)C12C3=CC=CC=C3C(C=3C=CC=CC13)C2 | C16H12O
reactant | hydrochloric acid | 2 N, 5 ml | Cl | ClH
reactant | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | (9,10-dihydro-9,10-methano-9-anthryl)-acetaldehyde | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CC=O | C17H14O
